US05854275
To a solution of (1-tert-butoxycarbonylbut-3-enylamino)-cyclohexanecarboxylic acid (0.5 g, 1.29 mmol) in dioxane (5 mL) and water (5 mL) was added a 2.5 weight % solution of osmium tetroxide in tert-butanol (0.05 mL). After 20 minutes, sodium periodate (0.88 g, 4.13 mmol) was added in small portions over another period of 20 minutes. The mixture was stirred at room temperature for 6 hours and was quenched by addition of a saturated aqueous solution of sodium bicarbonate. The mixture was extracted with ethyl acetate and the extract was washed with brine, dried over magnesium sulfate, and concentrated under vacuum to give an oil. The oil was dissolved in methanol (12 mL) and sodium borohydride (137 mg, 3.61 mmol) was added. The mixture was stirred overnight. A 1M aqueous solution of hydrochloric acid was added and, after stirring for 10 minutes, the solvent was removed under vacuum. The residue was partitioned between a saturated aqueous solution of sodium bicarbonate and ethyl acetate. The organic layer was washed with brine dried over magnesium sulfate, and concentrated under vacuum to give an oil. The oil was chromatographed on silica gel eluting with 10% ethyl acetate in methylene chloride to provide 1-(1-tert-butoxycarbonyl-3-hydroxy-propylamino)cyclohexanecarboxylic acid benzyl ester as an oil, 469 mg (66%).

reactant | (1-tert-butoxycarbonylbut-3-enylamino)-cyclohexanecarboxylic acid | 1.29 mmol, 0.5 g | C(C)(C)(C)OC(=O)C(CC=C)NC1(CCCCC1)C(=O)O | C16H27NO4
reactant | sodium periodate | 4.13 mmol, 0.88 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium borohydride | 3.61 mmol, 137 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 5 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | tert-butanol | 0.05 mL | C(C)(C)(C)O | C4H10O
solvent | methanol | 12 mL | CO | CH4O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 1-(1-tert-butoxycarbonyl-3-hydroxy-propylamino)cyclohexanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCCCC1)NC(CCO)C(=O)OC(C)(C)C | C22H33NO5
